US07384934B2
2-Methoxyimino-malonic acid diethyl ester
Combine diethylketomalonate (50 g, 0.287 mol) in 3A ethanol (250 mL) and add N-methylhydroxylamine-HCl (23.9 g, 0.287 mol). Add pyridine (22.7 g, 0.287 mol) and heat to reflux (78° C.) the colorless homogeneous solution with stirring under nitrogen for approximately 2.5 hours before cooling to ambient temperature. Stir at ambient temperature for approximately 48 hours monitoring by HPLC analysis (Zorbax RX C18, 55% ACN/45% 0.1% TFA, 1 mL/min, 233 nm). Concentrate the reaction mixture in vacuo to a wet, waxy white solid and partition between 100 mL of EtOAc and 100 mL of H2O. Extract the aqueous layer with 3×100 mL portions of EtOAc. Combine the EtOAc layers, wash with 100 mL of brine, dry over MgSO4, filter, and evaporate down to a yellow oil. Absorb the crude product onto silica gel 60 (Merck, 230-400 mesh) and elute with 4 L of a 9:1 hexanes:EtOAc solution as eluent. Evaporate the eluent in vacuo to afford 56.3 g (96.6% yield) of the title compound as a pale yellow homogeneous oil; 1H NMR (300 MHz, CDCl3) δ 4.29 (m, 4H), 4.05 (s, 3H), 1.259 (t, 6H, J=7.32 Hz); 13C NMR (75 MHz, CDCl3) δ 159.9, 158.9, 143.3, 64.2, 62.3, 62.1, 13.7; IR (CHCl3) 3029, 2986, 2944, 1744, 1605, 1329, 1301, 1264, 1237, 1103, 1043 cm−1; UV (EtOH) λmax 231 nm (ε 8582); HRMS (ES) exact mass calc'd for C8H13NO5 203.0794, Found 203.0797. Anal. calc'd for C8H13NO5: C, 47.29; H, 6.45; N, 6.89. Found: C, 46.28; H, 6.36; N, 4.86.

reactant | diethylketomalonate | 0.287 mol, 50 g | C(C)OC(C(C(=O)OCC)=O)=O | C7H10O5
reactant | ethanol | 250 mL | C(C)O | C2H6O
reactant | N-methylhydroxylamine-HCl | 0.287 mol, 23.9 g | Cl.CNO
reactant | pyridine | 0.287 mol, 22.7 g | N1=CC=CC=C1 | C5H5N
solvent | ACN | C(C)#N | C2H3N
product | 2-Methoxyimino-malonic acid diethyl ester | 56.3 g, 96.6% yield | C(C)OC(C(C(=O)OCC)=NOC)=O | C8H13NO5
